US07851473B2
(4) tert-Butyl 4-[4-(2,3-difluorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate
A solution of 2-bromo-4-(2,3-difluorophenyl)-1,3-thiazole (6.74 g, 24.4 mmol), tert-butyl piperazine-1-carboxylate (9.09 g, 48.4 mmol) and potassium carbonate (3.37 g, 24.4 mmol) in dimethylformamide (80 ml) was stirred at 120° C. for 13 hours. Water was poured to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Hexane was added to the residue, and crystals were collected by filtration to give 4.20 g (45.1%) of the desired product as a solid.

reactant | 2-bromo-4-(2,3-difluorophenyl)-1,3-thiazole | 24.4 mmol, 6.74 g | BrC=1SC=C(N1)C1=C(C(=CC=C1)F)F | C9H4BrF2NS
reactant | tert-butyl piperazine-1-carboxylate | 48.4 mmol, 9.09 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | potassium carbonate | 24.4 mmol, 3.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 4-[4-(2,3-difluorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate | 4.20 g, 45.1% | FC1=C(C=CC=C1F)C=1N=C(SC1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H21F2N3O2S
